US04263304
To a stirred suspension of 0.08 g of 65% sodium hydride (in oil) in 5 ml of dimethylformamide, 0.5 g of 7-methyl-10-chloroindolo(2,3-c)isoquinolin-5(6H)-one is added at room temperature. The reaction mixture is stirred for 30 minutes and 2.5 g of methyl iodide in 30 ml of dimethylformamide is added dropwise thereto at room temperature. After addition, stirring is continued for further 16 hours at room temperature and then dimethylformamide is removed under reduced pressure. The residue is treated with water and extracted with dichloromethane. The organic layer is dried over magnesium sulfate and the solvent is evaporated in vacuo to give 404 mg of 5-methoxy-7-methyl-10-chloro-7H-indolo(2,3-c)isoquinoline, which is recrystallized from ethyl acetate, melting point 179°-180.5° C.

reactant | sodium hydride | 0.08 g | [H-].[Na+]
reactant | 7-methyl-10-chloroindolo(2,3-c)isoquinolin-5(6H)-one | 0.5 g | CN1C=2C=CC(=CC2C2=C1NC(C1=CC=CC=C21)=O)Cl | C16H11ClN2O
reactant | methyl iodide | 2.5 g | CI | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-methoxy-7-methyl-10-chloro-7H-indolo(2,3-c)isoquinoline | 404 mg | COC1=NC2=C(C3=CC=CC=C13)C=1C=C(C=CC1N2C)Cl | C17H13ClN2O
